US05958942
ii) Synthesis of 4,5-dihydro-4-[1-(trifluoroacetyl) piperidin-4-ylmethyl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione
To a suspension of 1.08 g (2.77 mmol) of 4,5-dihydro-4-(piperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylene-3,5-dione.dihydrochloride in 100 ml of acetonitrile were added 1.93 ml (13.9 mmol) of triethylamine, 2.0 g (16.4 mmol) of 4-dimethylaminopyridine and 5.25 g (25.0 mmol) of trifluoroacetic acid anhydride. The mixture was stirred for one hour at room temperature. The solvent was distilled off. To the residue was added ethyl acetate--tetrahydrofuran. The mixture was washed with an aqueous solution of sodium hydrogencarbonate, and dried over anhydrous magnesium sulfate. The solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate), which was then recrystallized from ethyl acetate to afford 862 mg (81.7%, a colorless crystals) of the desired compound.

reactant | 4,5-dihydro-4-(piperidin-4-ylmethyl)-3H-1,4,8b-triazaacenaphthylene-3,5-dione.dihydrochloride | 2.77 mmol, 1.08 g | Cl.Cl.N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1=O)N32)=O
reactant | triethylamine | 13.9 mmol, 1.93 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic acid anhydride | 25.0 mmol, 5.25 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 16.4 mmol, 2.0 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 4,5-dihydro-4-[1-(trifluoroacetyl) piperidin-4-ylmethyl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione | FC(C(=O)N1CCC(CC1)CN1C(C2=CN=C3C=CC=C(C1=O)N32)=O)(F)F | C17H15F3N4O3
